US07696201B2
Pd2(dba)3-CHCl3 (5 mg, 0.5 mol %), 2′-(dicyclohexylphosphino)biphenyl-2-amine (8 mg, 2 mol %) and sodium tert-butoxide (13 mg, 0.14 mmol) were weighed in air and transferred into flask, followed by dioxane (750 μL), 1′-(piperidin-4-yl)spiro[benzo[d][1,3]oxazine-4,4′piperidin]-2(1H)-one bis-hydrochloride (compound no. 49) (37 mg, 0.10 mmol) and iodopyrazine (viia) (20.6 mg, 0.10 mmol). The flask was flushed with nitrogen and stirred at 80° C. for 16 hours. The reaction mixture was diluted with methanol (500 μL), filtered (Whatman 0.45 μm PTFE) and subjected to reverse-phase HPLC purification (2-25% CH3CN gradient [w/0.1% TFA (aq)] over 10 minutes, 1.0 mL injected, 35 mL/min) to provide 1′-(1-(pyrazin-2-yl)piperidin-4-yl)spiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one (compound no. 74). LC/MS m/z 380.2 [M+H]+, retention time 1.35 min (RP-C18, 10-99% CH3CN/0.05% TFA).

reactant | 2′-(dicyclohexylphosphino)biphenyl-2-amine | 8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N)C1CCCCC1 | C24H32NP
reactant | sodium tert-butoxide | 0.14 mmol, 13 mg | CC(C)([O-])C.[Na+]
reactant | 1′-(piperidin-4-yl)spiro[benzo[d][1,3]oxazine-4,4′piperidin]-2(1H)-one bis-hydrochloride | 0.10 mmol, 37 mg | Cl.Cl.N1CCC(CC1)N1CCC2(CC1)C1=C(NC(O2)=O)C=CC=C1
reactant | iodopyrazine | 0.10 mmol, 20.6 mg | IC1=NC=CN=C1 | C4H3IN2
catalyst | Pd2(dba)3 CHCl3 | 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd].C(Cl)(Cl)Cl
solvent | dioxane | 750 μL | O1CCOCC1 | C4H8O2
product | 1′-(1-(pyrazin-2-yl)piperidin-4-yl)spiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one | N1=C(C=NC=C1)N1CCC(CC1)N1CCC2(CC1)C1=C(NC(O2)=O)C=CC=C1 | C21H25N5O2
